US06620826B2
b) 2-Hydroxy4-methoxynitrobenzene
To a solution of dimethoxynitrobenzene (30.0 g, 0.163 mol) in 99% methanesulfonic acid (300 ml) was added dl-methionine (31.8 g, 0.212 mol) and the mixture was stirred at rt for 24 h. The solution was poured onto ice and stirred with water (1.5 l). The precipitate was filtered and washed with water. The title compound was collected as a yellow solid (23.1 g, 84%).

reactant | dimethoxynitrobenzene | 0.163 mol, 30.0 g | COC=1C(=C(C=CC1)[N+](=O)[O-])OC | C8H9NO4
reactant | dl-methionine | 0.212 mol, 31.8 g | NC(CCSC)C(=O)O | C5H11NO2S
reactant | water | 1.5 l | O | H2O
solvent | methanesulfonic acid | 300 ml | CS(=O)(=O)O | CH4O3S
product | 2-Hydroxy4-methoxynitrobenzene | OC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C7H7NO4
